US07001887B2
To a solution of N-(benzylsulfonyl)-D-isoleucine (6.3 g, 22.2 mmol) and L-methionine methyl ester hydrochloride (6.7 g, 33.3 mmol) in dichloromethane (100 ml), HOBt (4.1 g, 26.6 mmol), EDC HCl (5.1 g, 1.2 mmol) and N-methylmorpholine (3.4 g, 33.3 mmol) were added and stirred at room temperature under a nitrogen stream. After 12 hours, water was added to the reaction mixture, which was then extracted with ethyl acetate. The ethyl acetate layer was washed sequentially with 10% aqueous citric acid, saturated aqueous sodium bicarbonate and saturated brine, and then dried over anhydrous magnesium sulfate. After magnesium sulfate was filtered off, the filtrate was concentrated under reduced pressure and the residue was applied to flash column chromatography (Merck Silicagel 60; mobile phase: dichloromethane) to give N-(benzylsulfonyl)-D-isoleucyl-L-methionine methyl ester (6.4 g, 14.9 mmol; yield 67%).

reactant | N-(benzylsulfonyl)-D-isoleucine | 22.2 mmol, 6.3 g | C(C1=CC=CC=C1)S(=O)(=O)N[C@H]([C@H](C)CC)C(=O)O | C13H19NO4S
reactant | L-methionine methyl ester hydrochloride | 33.3 mmol, 6.7 g | Cl.COC([C@@H](N)CCSC)=O
reactant | HOBt | 26.6 mmol, 4.1 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC HCl | 1.2 mmol, 5.1 g | CCN=C=NCCCN(C)C.Cl
reactant | N-methylmorpholine | 33.3 mmol, 3.4 g | CN1CCOCC1 | C5H11NO
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
product | N-(benzylsulfonyl)-D-isoleucyl-L-methionine methyl ester | 14.9 mmol, 6.4 g, yield 67% | COC([C@@H](NC([C@H](NS(=O)(=O)CC1=CC=CC=C1)[C@H](C)CC)=O)CCSC)=O | C19H30N2O5S2
